US08211927B2
To a cooled solution, <5° C., of sodium ethoxide (4.4 g, 64.6 mmol) in ethanol, diethyl oxalate (7.71 mL, 56.7 mmol) in toluene (150 mL) was added. The reaction mixture was stirred for 30 min, before the addition of 1-(4-tert-butylphenyl)ethanone (56.7 mmol, 10 g) dropwise in toluene (20 mL) (via pressurised dropping funnel). The reaction mixture was stirred overnight to room temperature and then evaporated to low volume. Acetic acid was added and the resultant precipitate was filtered and washed with heptane to obtain ethyl 4-(4-tert-butylphenyl)-2,4-dioxobutanoate (15.68 g, 56.7 mmol).

reactant | sodium ethoxide | 64.6 mmol, 4.4 g | [O-]CC.[Na+]
reactant | diethyl oxalate | 56.7 mmol, 7.71 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 1-(4-tert-butylphenyl)ethanone | 56.7 mmol, 10 g | C(C)(C)(C)C1=CC=C(C=C1)C(C)=O | C12H16O
solvent | ethanol | C(C)O | C2H6O
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 4-(4-tert-butylphenyl)-2,4-dioxobutanoate | 56.7 mmol, 15.68 g | C(C)(C)(C)C1=CC=C(C=C1)C(CC(C(=O)OCC)=O)=O | C16H20O4
